US05472962
The same operations as in Preparation example 1 were carried out using 495 mg of 6-methoxybenzo[b]thiophene, and chlorine gas in place of cyclohexanone, and then purification was carried out by TLC (developing solvent, chloroform:n-hexane=4:1) to obtain 172 mg of 6-methoxy-2-chlorobenzo[b]thiophene.

reactant | 6-methoxybenzo[b]thiophene | 495 mg | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | chlorine | ClCl | Cl2
product | 6-methoxy-2-chlorobenzo[b]thiophene | 172 mg | COC=1C=CC2=C(SC(=C2)Cl)C1 | C9H7ClOS
